US06706663B2
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid
A solution of potassium dichromate (10.0 g) in 1.5 M sulfuric acid (200 mL) is cooled to 0° C., treated dropwise with a solution of a 2:3 mixture of 3-[3-(hydroxymethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione and 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde (12.0 g) in acetic acid, stirred at room temperature for 2 hours, and diluted with water. The resultant aqueous mixture is extracted with methylene chloride. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a white solid (8.50 g, mp 149-152° C.).

reactant | potassium dichromate | 10.0 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[K+].[K+]
reactant | 3-[3-(hydroxymethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | OCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C14H10F3N3O3S
reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxaldehyde | 12.0 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C=O)C1)=O | C14H8F3N3O3S
solvent | sulfuric acid | 1.5 M, 200 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid | 8.50 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)O)C1)=O | C14H8F3N3O4S
